US05641735
1,1-dicyano-2,2-bis-octylthio-ethylene;
1,1-dicyano-2,2-bis-nonylthioethylene; 1,1-dicyano-2,2-bis-tetradecylthioethylene; 1,1-dicyano-2,2-bis-octadecylthioethylene; and 1,1-dicyano-2,2-bis-(4-dodecylbenzylthio)ethylene.

reactant | 1,1-dicyano-2,2-bis-nonylthioethylene | C(#N)C(=C(SCCCCCCCCC)SCCCCCCCCC)C#N | C22H38N2S2
reactant | 1,1-dicyano-2,2-bis-tetradecylthioethylene | C(#N)C(=C(SCCCCCCCCCCCCCC)SCCCCCCCCCCCCCC)C#N | C32H58N2S2
reactant | 1,1-dicyano-2,2-bis-octadecylthioethylene | C(#N)C(=C(SCCCCCCCCCCCCCCCCCC)SCCCCCCCCCCCCCCCCCC)C#N | C40H74N2S2
reactant | 1,1-dicyano-2,2-bis-(4-dodecylbenzylthio)ethylene | C(#N)C(=C(SCC1=CC=C(C=C1)CCCCCCCCCCCC)SCC1=CC=C(C=C1)CCCCCCCCCCCC)C#N | C42H62N2S2
product | 1,1-dicyano-2,2-bis-octylthio-ethylene | C(#N)C(=C(SCCCCCCCC)SCCCCCCCC)C#N | C20H34N2S2
